US07888364B2
Procedure F was performed using 55 mg of 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide and 92 μL of 1-(3-aminopropyl)-imidazole in 0.5 mL of BuOH. Purified by reverse phase HPLC to yield 6-(3-(1H-imidazol-1-yl)propylamino)-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide. MS (Q1) 446.1 (M)+.

reactant | 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide | 55 mg | ClC1=NC(=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)C | C18H13Cl2N3O
reactant | 1-(3-aminopropyl)-imidazole | 92 μL | NCCCN1C=NC=C1 | C6H11N3
solvent | BuOH | 0.5 mL | C(CCC)O | C4H10O
product | 6-(3-(1H-imidazol-1-yl)propylamino)-N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-methylnicotinamide | N1(C=NC=C1)CCCNC1=NC(=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)C | C24H23ClN6O
